US08648066B2
To a mixture of 4,6-dichloro-5-methylpyrimidine (2.27 g, 13.9 mmol) and aniline (1.0 g, 10.7 mmol) in isopropanol (15 mL) was added concentrated aqueous hydrochloric acid (1.5 mL) and heated to reflux for 2.5 h. The mixture was then concentrated and the residue triturated with ethyl acetate:isopropanol 4:1. The solid was collected by filtration and washed with additional ethyl acetate:isopropanol 4:1 then dried to give 6-chloro-5-methyl-N-phenylpyrimidin-4-amine (2.0 g, 67% yield). 1H NMR (400 MHz, d6-DMSO): 8.85 (s, 1H), 8.26 (s, 1H), 7.60 (d, 2H), 7.35 (tr, 2H), 7.11 (tr, 1H), 2.31 (s, 3H). MS (EI) for C11H10ClN3: 220 (MH+).

reactant | 4,6-dichloro-5-methylpyrimidine | 13.9 mmol, 2.27 g | ClC1=NC=NC(=C1C)Cl | C5H4Cl2N2
reactant | aniline | 10.7 mmol, 1.0 g | NC1=CC=CC=C1 | C6H7N
reactant | hydrochloric acid | 1.5 mL | Cl | ClH
solvent | isopropanol | 15 mL | C(C)(C)O | C3H8O
product | 6-chloro-5-methyl-N-phenylpyrimidin-4-amine | 2.0 g, 67% yield | ClC1=C(C(=NC=N1)NC1=CC=CC=C1)C | C11H10ClN3
